US07582773B2
Step 5: Synthesis of [4-(1,3-Dibenzyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1,3-dibenzyl-2-phenyl-1H-indol-5-yl)-phenol (0.542 g, 1.163 mmol) was reacted with K2CO3 (0.225 g, 1.628 mmol) and bromoacetonitrile (0.195 g, 1.628 mmol) in acetone (10 ml) to give the product (0.486 g, 0.963 mmol, 83%) as a viscous, yellow oil. 1H NMR (DMSO-d6) δ 4.08 (s, 2H), 5.19 (s, 2H), 5.36 (s, 2H), 6.89 (d, J=7.3 Hz, 2H), 7.10-7.24 (m, 10H), 7.37-7.51 (m, 7H), 7.57 (d, J=8.9 Hz, 2H), 7.63 (s, 1H); [ESI(+)], m/z 505 (M+H)+.

reactant | 4-(1,3-dibenzyl-2-phenyl-1H-indol-5-yl)-phenol | 1.163 mmol, 0.542 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CC1=CC=CC=C1)C1=CC=CC=C1 | C34H27NO
reactant | K2CO3 | 1.628 mmol, 0.225 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 1.628 mmol, 0.195 g | BrCC#N | C2H2BrN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [4-(1,3-Dibenzyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C36H28N2O
